### PR TITLE
chore: rename integral lemmas

### PR DESCRIPTION
**Pull request by grunweg**
- Give the integral lemmas in `ToMathlib/MeasureTheory/Measure/NNReal` (more) proper names.
- Prove the three sorries (which were all easy).
- Some simple golfs and spacing fixes.

### CODE REVIEW

File: Carleson/ToMathlib/Data/ENNReal.lean [hunk 1]
```diff
@@ -123,6 +123,7 @@ lemma exists_enorm_sub_eps_le_biInf
   by_contra! h
   specialize glb (A + ε)
   have key : A + ε ∈ lowerBounds ((‖f ·‖ₑ) '' s) := fun i mi ↦ by
+
```
Comment (grunweg) [inline Carleson/ToMathlib/Data/ENNReal.lean]:
```suggestion
